US06933295B2
5-Chloro-N-{2-[3-(hydroxymethyl)benzyl]-1-oxo-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide
Under argon and at room temperature, a solution of tetra-n-butylammonium fluoride (1 M in THF, 4.6 ml, 4.6 mmol) is added to a solution of 5-chloro-N-{1-oxo-2-[3-(silylmethyl)benzyl]-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide (2.0 g, 3.8 mmol) in tetrahydrofuran (38 ml). The reaction mixture is stirred at room temperature for 14 h and concentrated under reduced pressure. The crude product is used without further purification for the next reaction.

reactant | tetra-n-butylammonium fluoride | 4.6 mmol, 1 M, 4.6 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 5-chloro-N-{1-oxo-2-[3-(silylmethyl)benzyl]-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide | 3.8 mmol, 2.0 g | ClC1=CC=C(S1)C(=O)NC1=C2CN(C(C2=CC=C1)=O)CC1=CC(=CC=C1)C[SiH3] | C21H19ClN2O2SSi
reactant | tetrahydrofuran | 38 ml | O1CCCC1 | C4H8O
product | 5-Chloro-N-{2-[3-(hydroxymethyl)benzyl]-1-oxo-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide | ClC1=CC=C(S1)C(=O)NC1=C2CN(C(C2=CC=C1)=O)CC1=CC(=CC=C1)CO | C21H17ClN2O3S
